US08629147B2
2-[2-Hydroxy-5-(2-methoxy-pyridin-3-yl)-phenyl]-3H-benzoimidazole-5-carboxylic acid methylamide
A suspension of 2-[2-hydroxy-5-(2-methoxy-pyridin-3-yl)-phenyl]-3H-benzoimidazole-5-carboxylic acid methyl ester (37.5 mg, 0.1 mmol) in aqueous methylamine solution (40%, 2 mL) was heated at 140° C. in a Biotage Initiator Sixty microwave reactor for 15 min, cooled to the room temperature, and concentrated under reduced pressure. The residue was purified by chromatography (500:10:1 CH2Cl2/MeOH/28% aqueous NH4OH) to afford the title compound (19 mg, 50%). 1H NMR (DMSO-d6) δ 2.84 (s, 3H), 3.92 (s, 3H), 7.11-7.17 (2H), 7.62-7.83 (4H), 8.10-8.29 (3H), 8.50 (br, 1H, NH). ESI-MS m/z 375.3 (MH+).

reactant | 2-[2-hydroxy-5-(2-methoxy-pyridin-3-yl)-phenyl]-3H-benzoimidazole-5-carboxylic acid methyl ester | 0.1 mmol, 37.5 mg | COC(=O)C1=CC2=C(N=C(N2)C2=C(C=CC(=C2)C=2C(=NC=CC2)OC)O)C=C1 | C21H17N3O4
reactant | methylamine | 2 mL | CN | CH5N
product | 2-[2-Hydroxy-5-(2-methoxy-pyridin-3-yl)-phenyl]-3H-benzoimidazole-5-carboxylic acid methylamide | 19 mg, 50% | CNC(=O)C1=CC2=C(N=C(N2)C2=C(C=CC(=C2)C=2C(=NC=CC2)OC)O)C=C1 | C21H18N4O3
